US07812026B2
2-methoxy-1,1-dimethylethyl 4-[(1H-benzimidazol-1-ylacetyl)amino]-2-(dimethylamino)-1-phenyl-1H-imidazole-5-carboxylate
2-Methoxy-1,1-dimethylethyl 4-[(bromoacetyl)amino]-2-(dimethylamino)-1-phenyl-1H-imidazole-5-carboxylate (35 mg, 1 eq), synthesized in an analogous manner/method as described for example 90), benzimidazole (2.5 eq) and K2CO3 (22 mg, 2 eq) were dissolved in DMF (5 mL). The reaction was stirred for 1 h at 75° C. The solvent was evaporated off and to the residue was added K2CO3(aq) (1 M, 50 mL) and extracted with ether. The organic phases were pooled, dried (MgSO4.H2O), filtered and evaporated. Eventually the crude material was purified by preparatory HPLC, which gave the desired pure product. Yield: 41%. 1H-NMR d (CDCl3): 1.29 (s, 6H), 2.68 (s, 6H), 3.27 (s, 2H), 3.31 (s, 3H), 5.3-5.9 (s, 2H), 7.24-7.32 (m, 4H), 7.41 (m, 4H), 7.80 (d, 1H), 8.02 (s, 1H), 9.50 (s, 1H).

reactant | 2-Methoxy-1,1-dimethylethyl 4-[(bromoacetyl)amino]-2-(dimethylamino)-1-phenyl-1H-imidazole-5-carboxylate | 35 mg, 1 eq | BrCC(=O)NC=1N=C(N(C1C(=O)OC(COC)(C)C)C1=CC=CC=C1)N(C)C | C19H25BrN4O4
reactant | benzimidazole | 2.5 eq | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | K2CO3 | 22 mg, 2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-methoxy-1,1-dimethylethyl 4-[(1H-benzimidazol-1-ylacetyl)amino]-2-(dimethylamino)-1-phenyl-1H-imidazole-5-carboxylate | Yield: 41% | N1(C=NC2=C1C=CC=C2)CC(=O)NC=2N=C(N(C2C(=O)OC(COC)(C)C)C2=CC=CC=C2)N(C)C | C26H30N6O4
